US07001897B2
To a suspension of (3R)-3-hydroxypyrrolidine hydrochloride (7.00 g, 56.6 mmol) in methylene chloride (210 ml) were added chloroformic acid p-nitrobenzyl ester (13.4 g, 62.3 mmol) and triethylamine (17.4 ml, 125 mmol) in an ice bath. The mixture was stirred at room temperature for 5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:1)→ethyl acetate as the eluant to afford (3R)-3-hydroxy-1-(p-nitrobenzyloxycarbonyl)-pyrrolidine (13.6 g, yield 90%) as a pale yellow solid.

reactant | (3R)-3-hydroxypyrrolidine hydrochloride | 56.6 mmol, 7.00 g | Cl.O[C@H]1CNCC1
reactant | chloroformic acid p-nitrobenzyl ester | 62.3 mmol, 13.4 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | triethylamine | 125 mmol, 17.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 210 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-hydroxy-1-(p-nitrobenzyloxycarbonyl)-pyrrolidine | 13.6 g, yield 90% | O[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O5
